US04880838
Into a magnetically stirred solution of 3-chloro-4-(2,4-dichlorophenoxy)-2,5-dimethylaniline (1.5 grams, 4.73 mmol) prepared in Part B in toluene (15 milliliters) under nitrogen atmosphere was added neat 2,6-difluorobenzoyl isocyanate (1.3 grams, 7.10 mmol) and the mixture was refluxed for a period of 1 hour. The reaction mixture was allowed to cool and hexane (3 milliliters) was added to induce crystallization. The resultant precipitate was filtered and washed successively with hexane and toluene to give pure 1-[3-chloro-4-(2,4-dichlorophenoxy)-2,5-dimethylphenyl]-3-(2,6-difluorobenzoyl) urea (2.29 grams, 4.58 mmol, 97%) as a white solid having a melting point of 188° C.-190° C. Elemental analysis of the white solid indicated the following:

reactant | 3-chloro-4-(2,4-dichlorophenoxy)-2,5-dimethylaniline | 4.73 mmol, 1.5 grams | ClC=1C(=C(N)C=C(C1OC1=C(C=C(C=C1)Cl)Cl)C)C | C14H12Cl3NO
reactant | 2,6-difluorobenzoyl isocyanate | 7.10 mmol, 1.3 grams | FC1=C(C(=O)N=C=O)C(=CC=C1)F | C8H3F2NO2
reactant | hexane | 3 milliliters | CCCCCC | C6H14
solvent | toluene | 15 milliliters | C1(=CC=CC=C1)C | C7H8
product | 1-[3-chloro-4-(2,4-dichlorophenoxy)-2,5-dimethylphenyl]-3-(2,6-difluorobenzoyl) urea | 4.58 mmol, 2.29 grams, 97% | ClC=1C(=C(C=C(C1OC1=C(C=C(C=C1)Cl)Cl)C)NC(=O)NC(C1=C(C=CC=C1F)F)=O)C | C22H15Cl3F2N2O3
